US07666871B2
5-Methyl-2-(4′-methyl-biphenyl-4-yl)-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]oxazole
The title compound is prepared in a manner substantially analogous to example 133 starting from tolyl boronic acid (195 mg, 1.43 mmol) and 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole (100 mg, 0.287 mmol) to give 33 mg (32%). MS (m/e) 361.3 (M+1)

reactant | tolyl boronic acid | 1.43 mmol, 195 mg | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]-oxazole | 0.287 mmol, 100 mg | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1[C@@H](CCC1)C)C | C17H21BrN2O
product | 5-Methyl-2-(4′-methyl-biphenyl-4-yl)-4-[2-((R)-2-methyl-pyrrolidin-1-yl)-ethyl]oxazole | CC1=C(N=C(O1)C1=CC=C(C=C1)C1=CC=C(C=C1)C)CCN1[C@@H](CCC1)C | C24H28N2O
